US04772600
2-(4-Fluorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrate [1:1]
A mixture of 2-(4-fluorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (4.49 g, 0.0166 mole) and 1,1'-carbonyldiimidazole (2.69 g, 0.0166 mole) was stirred at room temperature in dry tetrahydrofuran (100 ml) for 2.5 hours with a stream of nitrogen bubbling through it. The reaction mixture was cooled in a dry ice/acetone bath and liquid ammonia (50 ml) was added. The mixture was allowed to warm to room temperature and was stirred overnight under nitrogen. The solvents were removed under reduced pressure and the resulting solid was triturated in water (100 ml), collected by filtration, rinsed twice with water, twice with a 5% potassium hydroxide solution and twice again with water. The solid was dissolved in hot methanol, filtered while hot and cooled to room temperature. Water was added to the cloud point. The resulting solid was collected by filtration, rinsed with water, and dried under high vacuum at room temperature to give 3.04 g (68%) of title compound, mp. 246°-248° C.

reactant | 2-(4-fluorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0166 mole, 4.49 g | FC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10FN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0166 mole, 2.69 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | 50 ml | N | H3N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(4-Fluorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrate | 3.04 g, 68% | O.FC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)N | InChI=1S/C14H11FN4O.H2O/c15-10-5-3-9(4-6-10)13-18-11-2-1-7-17-14(11)19(13)8-12(16)20;/h1-7H,8H2,(H2,16,20);1H2
